US04273782
A solution of 5-chlorogramine (3.73 g) and imidazole (1.22 g) in xylene (20 ml) was heated under reflux for 3 hours and the cooled. The solid was filtered off, washed with toluene followed by petrol and then crystallised from a mixture of isopropanol and petrol (b.p. 60°-80° C.) to give 5-chloro-3-(1-imidazolylmethyl)indole (3.50 g), m.p. 195°-197° C. Found: C, 62.48; H, 4.31; N, 18.09. C12H10ClN3 requires: C, 62.20; H, 4.35; N, 18.14%.

reactant | 5-chlorogramine | 3.73 g | CN(C)CC1=CNC2=C1C=C(C=C2)Cl | C11H13ClN2
reactant | imidazole | 1.22 g | N1C=NC=C1 | C3H4N2
solvent | xylene | 20 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 5-chloro-3-(1-imidazolylmethyl)indole | 3.50 g | ClC=1C=C2C(=CNC2=CC1)CC=1NC=CN1 | C12H10ClN3
